US03951976
Preparation of Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-[N-(3-chlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole) and 3-chlorophenyl isocyanate (3.5 ml; 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture is stirred and triethylamine (1 drop) is added thereto. After the addition is completed the reaction mixture is allowed to stand for a period of about 1 hour. The mixture is then washed with hexane and is dried to yield the desired product tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-[N-(3-chlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1O)CC=C)=O | C10H14N4O4S2
reactant | 3-chlorophenyl isocyanate | 0.06 mole, 3.5 ml | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-[N-(3-chlorophenyl)carbamoyloxy]-2(1H)-pyrimidinone | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1OC(NC1=CC(=CC=C1)Cl)=O)CC=C)=O | C17H18ClN5O5S2
